US08084645B2
To a solution of 5-[(2-amino-ethoxyimino)-methyl]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide (8.14 mg, 0.02 mmol) described in Example 22 in a mixture of dimethylformamide (1 ml) and methanol (5 ml), N-methoxy-diacetamide (100 mg, 0.76 mmol) was added, and the mixture was stirred at room temperature for 14 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, and the resulting residue was purified with Mega Bond Elut silica gel (5 g, Varian, Inc.). From the fractions eluted with 6% methanol/methylene chloride, 5-[(2-acetylamino-ethoxyimino)-methyl]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide (8.10 mg, 92% yield) was obtained as a pale yellow solid.

reactant | 5-[(2-amino-ethoxyimino)-methyl]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide | 0.02 mmol, 8.14 mg | NCCON=CC=1C(=C(C(=C(C(=O)NOCCO)C1)NC1=C(C=C(C=C1)I)F)F)F | C18H18F3IN4O4
reactant | N-methoxy-diacetamide | 0.76 mmol, 100 mg | CON(C(C)=O)C(=O)C | C5H9NO3
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | methanol | 5 ml | CO | CH4O
product | 5-[(2-acetylamino-ethoxyimino)-methyl]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide | 8.10 mg, 92% yield | C(C)(=O)NCCON=CC=1C(=C(C(=C(C(=O)NOCCO)C1)NC1=C(C=C(C=C1)I)F)F)F | C20H20F3IN4O5
